US08729078B2
Under N2, a mixture of acetic acid 2-bromo-6-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-benzyl ester (preparation described in intermediate-4, 300 mg, 0.699 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (270 mg, 0.769 mmol), Pd(dppf)Cl2 (171 mg, 0.21 mmol) and K2CO3 (289 mg, 2.19 mmol) in dioxane (15 mL) and water (3 mL) was heated at 100° C. for 4 h. The mixture was concentrated to dryness. The residue was purified by silica gel column chromatography (eluted with petroleum ether/ethyl acetate with a ratio of 2/1) to give 4-[2-acetoxymethyl-3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-phenyl]-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (160 mg, yield 40%). LC-MS calcd for C32H35N3O7 (m/e) 573.25, obsd 473 [M-Boc+1]+.

reactant | acetic acid 2-bromo-6-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-benzyl ester | 0.699 mmol, 300 mg | BrC1=C(COC(C)=O)C(=CC=C1)N1C(C2=CC=C(C=C2C=N1)C(C)(C)C)=O | C21H21BrN2O3
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.769 mmol, 270 mg | COC(=O)C=1N(C=C(C1)B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C17H26BNO6
reactant | K2CO3 | 2.19 mmol, 289 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.21 mmol, 171 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[2-acetoxymethyl-3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-phenyl]-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 160 mg, yield 40% | COC(=O)C=1N(C=C(C1)C1=C(C(=CC=C1)N1C(C2=CC=C(C=C2C=N1)C(C)(C)C)=O)COC(C)=O)C(=O)OC(C)(C)C | C32H35N3O7
